US08426420B2
iii) 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid [2-oxo-2-(4-pentanoyl-piperazin-1-yl)-ethyl]amide
To a solution of 50 mg 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide in 4 ml dichloromethane were added at 0° C. 15 l pyridine, 13 l valeryl chloride and a catalytic amount of DMAP. After stirring for 12 h it was concentrated and the residue obtained was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound.

reactant | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide | 50 mg | O=C(CNC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)N1CCNCC1 | C27H35N7O5
reactant | pyridine | 15 l | N1=CC=CC=C1 | C5H5N
reactant | valeryl chloride | 13 l | C(CCCC)(=O)Cl | C5H9ClO
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid [2-oxo-2-(4-pentanoyl-piperazin-1-yl)-ethyl]amide | O=C(CNC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)N1CCN(CC1)C(CCCC)=O | C32H43N7O6
